US08623889B2
Step 1: N-(7-(5-fluoro-2-methylphenyl)-5-formyl-2,6-naphthyridin-3-yl)cyclopropanecarboxamide
A mixture of N-(7-(5-fluoro-2-methylphenyl)-5-(hydroxymethyl)-2,6-naphthyridin-3-yl)cyclopropanecarboxamide (80 mg, 0.2 mmol) and Dess-Martin periodinane (120 mg, 0.27 mmol) and methylene chloride (1 mL) was stirred at room temperature for 1 hour. The reaction mixture was diluted with ethyl acetate (50 mL) and washed with saturated aqueous sodium bicarbonate solution (20 mL). The organic layer was separated, dried over sodium sulfate, filtered, and evaporated in vacuo to afford a residue that was purified by flash chromatography (silica, 4 g, ISCO, 0-50% ethyl acetate in heptane) to afford the title compound as a pale yellow solid (65 mg, 80%), which was used in the next step without further purification.

reactant | N-(7-(5-fluoro-2-methylphenyl)-5-(hydroxymethyl)-2,6-naphthyridin-3-yl)cyclopropanecarboxamide | 0.2 mmol, 80 mg | FC=1C=CC(=C(C1)C1=NC(=C2C=C(N=CC2=C1)NC(=O)C1CC1)CO)C | C20H18FN3O2
reactant | Dess-Martin periodinane | 0.27 mmol, 120 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | N-(7-(5-fluoro-2-methylphenyl)-5-formyl-2,6-naphthyridin-3-yl)cyclopropanecarboxamide | 65 mg, 80% | FC=1C=CC(=C(C1)C1=NC(=C2C=C(N=CC2=C1)NC(=O)C1CC1)C=O)C | C20H16FN3O2
